US09163011B2
d) 3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide
3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-5,5-difluoro-2-{[(4-methoxy-phenyl)-(3-methoxy-phenyl)-phenyl-methyl]-amino}-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide (80 mg, 0.104 mmol) was dissolved in dichloromethane (0.1039 ml), TFA (80.0 μl, 1.04 mmol) was added and the reaction mixture was stirred at rt for 18 hours. The reaction mixture was poured onto a mixture of ice ethyl acetate and NH4OH (w=25%). The organic layer was washed with water, brine, dried over sodium sulfate, filtered and concentrated. The crude product was chromatographed over silica gel (column 4 g, dichloromethane/methanol 95:5+0.5% ammonia) to give the title compound: 32 mg (65.9% yield).

reactant | 3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-5,5-difluoro-2-{[(4-methoxy-phenyl)-(3-methoxy-phenyl)-phenyl-methyl]-amino}-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide | 0.104 mmol, 80 mg | FC1([C@@](N=C(OC1)NC(C1=CC=CC=C1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OC)(C)C1=C(C=CC(=N1)NC(=O)C1=NC=C(C=C1Cl)C(F)(F)F)F)F | C38H30ClF6N5O4
reactant | TFA | 1.04 mmol, 80.0 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | 0.1039 ml | ClCCl | CH2Cl2
product | 3-Chloro-5-trifluoromethyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide | 65.9% yield | NC=1OCC([C@@](N1)(C)C1=C(C=CC(=N1)NC(=O)C1=NC=C(C=C1Cl)C(F)(F)F)F)(F)F | C17H12ClF6N5O2
